US06489314B1
(e) (5R)-5-hydroxy-2-iodo-6-methyl-7-(2-methylthiazol-4-yl)-2,6-heptadiene
A solution of (5R)-2-iodo-6-methyl-7-(2-methylthiazol-4-yl)-5-(triethylsilyloxy)-2,6-heptadiene (2.28 g) in 50 mL of 3: 1:1 acetic acid/THF/water is stirred at ambient temperature for 8 hoursours, then concentrated. The residue is dissolved in ethyl acetate, washed sequentially with sat. NaHCO3 and brine, then dried over MgSO4, filtered, and evaporated. The product is purified by SiO2 chromatography (30% ethyl acetate/hexanes).

reactant | (5R)-2-iodo-6-methyl-7-(2-methylthiazol-4-yl)-5-(triethylsilyloxy)-2,6-heptadiene | 2.28 g | IC(C)=CC[C@H](C(=CC=1N=C(SC1)C)C)O[Si](CC)(CC)CC | C18H30INOSSi
solvent | acetic acid THF water | 50 mL | C(C)(=O)O.C1CCOC1.O
product | (5R)-5-hydroxy-2-iodo-6-methyl-7-(2-methylthiazol-4-yl)-2,6-heptadiene | O[C@H](CC=C(C)I)C(=CC=1N=C(SC1)C)C | C12H16INOS
